US06133258
The reaction procedure of Example 57 was followed except that 1.749 g (11.10 mmol) of 2-chloronicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 888 mg of ammonium thiocyanate, 15 ml of acetone, 1.32 g of N-methylcyclohexylamine and 10 ml of acetone were used. The resulting crude product was then recrystallized from ethanol to obtain 1.43 g of 2-(N-cyclohexyl-N-methylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 11.10 mmol, 1.749 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 888 mg | [S-]C#N.[NH4+]
reactant | N-methylcyclohexylamine | 1.32 g | CNC1CCCCC1 | C7H15N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(N-cyclohexyl-N-methylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 1.43 g | C1(CCCCC1)N(C)C=1SC2=C(C(N1)=O)C=CC=N2 | C14H17N3OS
